* C:\Users\Marcelo\Desktop\audioDSP\AudioDSP-Prototype\Simulations\FiltroDAC\filtroDAC.asc
XU1 N002 Vo1 +3V3 0 Vo1 OPA168x
V1 +3V3 0 3.3
C1 N002 0 {mc(150p,tola)}
R1 N002 N001 {mc(4k75,tolb)}
R2 N001 Vin {mc(4k75,tolb)}
C2 Vo1 N001 {mc(470p,tola)}
V2 Vin 0 0.5 AC 1
C3 N003 Vo1 {mc(47µ,tola)}
R3 Vo2 N003 {mc(560,tolb)}
C4 Vo2 0 {mc(3.3n,tola)}
R4 Vo2 0 {mc(49k9,tolb)}
.inc ..\Models\sbom950d\OPA168x.lib
.ac dec 100 2 200k
.param tola=0.1
* .step param run 1 100 1
.param tolb=0.01
.backanno
.end
